US04522646
16 parts by weight of nonanecarboxylic acid, 20 parts by weight of 30% strength sodium methylate solution and 440 parts by weight of dimethylsulfoxide are stirred for 1 hour at 100° C. Thereafter, 24.5 parts by weight of 3,7-dichloro-8-chloromethylquinoline are introduced and the reaction mixture is stirred for a further 2 hours at 100° C. The reaction solution is then cooled, water is added and the precipitated solid is filtered off under suction and recrystallized from toluene. 32.5 parts by weight (89% of theory) of 3,7-dichloro-8-octylcarbonyloxymethylquinoline of melting point 92° C. are obtained.

reactant | nonanecarboxylic acid | C(CCCCCCCC)C(=O)O | C10H20O2
reactant | sodium methylate | C[O-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 3,7-dichloro-8-chloromethylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)CCl | C10H6Cl3N
solvent | water | O | H2O
product | 3,7-dichloro-8-octylcarbonyloxymethylquinoline | 89% | ClC=1C=NC2=C(C(=CC=C2C1)Cl)COC(=O)CCCCCCCC | C19H23Cl2NO2
